US06818772B2
cis-N-(7-chloroquinolin-4-yl)-N′-(3-fluorobenzyl)cyclohexane-1,4-diamine
To 4-fluorobenzyl alcohol (9.2 mg, 0.073 mmol) was added Dess-Martin periodinane (31.0 mg, 0.073 mmol) in dichloromethane (2 mL). The mixture was stirred at room temperature for 0.5 hour and was added to a mixture of N-(7-chloroquinolin-4-yl)-cyclohexane-1,4-diamine (20 mg, 0.073 mmol), acetic acid (0.008 mg, 0.13 mmol) and MP-cyanoborohydride (51 mg, 0.219 mmol, Argonaut Technologies) in dichloromethane (5 mL). The mixture was stirred at room temperature for 18 hours, filtered and concentrated under reduced pressure to provide the τιτλεδ compound. MS(ESI) m/e 384 (M+H)+; 1H NMR (500 MHz, DMSO-D6) δ ppm 8.91 (br.s, 2 H), 8.75 (d, 1 H), 8.61 (d, 1 H), 7.97 (d, 1 H), 7.81 (dd, 1 H), 7.52 (dd, 1 H), 7.42 (d, 1 H), 7.37 (d, 1 H), 7.29 (td, 1 H), 4.25 (br.s, 2 H), 4.09 (br.s, 2 H), 1.76-2.13 (m, 8 H).

reactant | 4-fluorobenzyl alcohol | 0.073 mmol, 9.2 mg | FC1=CC=C(CO)C=C1 | C7H7FO
reactant | Dess-Martin periodinane | 0.073 mmol, 31.0 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | N-(7-chloroquinolin-4-yl)-cyclohexane-1,4-diamine | 0.073 mmol, 20 mg | ClC1=CC=C2C(=CC=NC2=C1)NC1CCC(CC1)N | C15H18ClN3
reactant | acetic acid | 0.13 mmol, 0.008 mg | C(C)(=O)O | C2H4O2
reactant | cyanoborohydride | 0.219 mmol, 51 mg | C(#N)[BH3-]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | cis-N-(7-chloroquinolin-4-yl)-N′-(3-fluorobenzyl)cyclohexane-1,4-diamine | ClC1=CC=C2C(=CC=NC2=C1)N[C@@H]1CC[C@@H](CC1)NCC1=CC(=CC=C1)F | C22H23ClFN3
